US04048311
A solution of 1.91 g. (4 mmol.) of 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester and 0.94 g. (4 mmol.) of 3,5-di-t-butyl-4-hydroxybenzaldehyde in 150 ml. of dry benzene is refluxed for ca. 4 hours under a Dean-Stark trap until no more water separates. The solution is evaporated under reduced pressure to give a residue which is dissolved in 150 ml. of 1,2-dichloroethane and cooled to 0°-5° in an ice bath. Freshly prepared lead dioxide (5 g.) is added in 1 g. portions over 30 minutes and the reaction is stirred in the cold until complete consumption of the starting material is indicated by thin layer chromatography. The mixture is then filtered through Celite and the filter cake is washed with two 30 ml. portions of cold 1,2 -dichloroethane. The filtrate is treated with 30 ml. of dry methanol (distilled from magnesium) and the reaction is stirred at ambient temperature for 3 hours until complete consumption of the intermediate and formation of a new product is shown by thin layer chromatography. The reaction mixture is evaporated to dryness and the residue is taken up in 50 ml. of methanol and treated with 4.0 g. of Girard reagent T (trimethylaminoacetohydrazide chloride). This solution is stirred at ambient temperature for 3 hours and evaporated under vacuum to give a solid residue which is partitioned between 150 ml. of ethyl acetate and 100 ml. of 20% aqueous sodium chloride solution. The organic phase is washed with three 100 ml. portions of 10% aqueous sodium chloride, two 100 ml. portions of water and 100 ml. of a saturated sodium chloride solution. The organic phase is dried (MgSO4), filtered and evaporated to dryness to give 7β-amino-7α-methoxy-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | 4 mmol | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCS(N)(=O)=O)SC2=NN=NN2 | C15H23N7O5S3
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 4 mmol | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | lead dioxide | 5 g | [Pb](=O)=O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | 7β-amino-7α-methoxy-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@@]2(OC)N)=O)C(CCS(N)(=O)=O)SC2=NN=NN2 | C16H25N7O6S3
